US07902226B2
Ethyl 2-(2,6-dichloronicotinoyl)-3-[2-(S)-fluoro-1-(R)-cyclopropylamino]acrylate
Next, this crude ethyl 2-(2,6-dichloronicotinoyl)-3-ethoxyacrylate (2.11 g, 6.62 mmol) and the para-toluenesulfonic acid salt of 2-(S)-fluoro-1-(R)-cyclopropylamine (2.45 g, 9.91 mmol) were suspended in dichloromethane (30 ml), and triethylamine (2.77 ml, 19.87 mmol) was added dropwise gradually thereto while stirring at −15° C. After completion of dripping, the reaction solution was stirred at room temperature for 15 hours. After adding ethyl acetate (100 ml) to the reaction solution, the organic layer was washed with a 10% aqueous citric acid solution (80 ml), saturated sodium bicarbonate water (80 ml), and saturated saline solution (80 ml), in that order, and then dried over anhydrous sodium sulfate. After filtering, the filtrate was concentrated under a reduced pressure, and 2.10 g (90%, 2 processes) of the title compound was thereby obtained as a yellowish-brown, oily substance (E/Z mixture). This resulting substance was used in the subsequent reaction without further purification.

reactant | ethyl 2-(2,6-dichloronicotinoyl)-3-ethoxyacrylate | 6.62 mmol, 2.11 g | ClC1=C(C(=O)C(C(=O)OCC)=COCC)C=CC(=N1)Cl | C13H13Cl2NO4
reactant | para-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 2-(S)-fluoro-1-(R)-cyclopropylamine | 9.91 mmol, 2.45 g | F[C@@H]1[C@@H](C1)N | C3H6FN
reactant | triethylamine | 19.87 mmol, 2.77 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-(2,6-dichloronicotinoyl)-3-[2-(S)-fluoro-1-(R)-cyclopropylamino]acrylate | ClC1=C(C(=O)C(C(=O)OCC)=CN[C@H]2[C@H](C2)F)C=CC(=N1)Cl | C14H13Cl2FN2O3
